US09061013B2
1-(4-formyl-phenyl)-azetidine-3-carboxylic acid
To a stirred solution of 4-fluoro benzaldehyde (5 g, 40.28 mmol) in DMSO (70 mL) was added azetidine-3-carboxylic acid (8.14 g, 80.56 mmol) followed by addition of triethyl amine (20.38 g, 201.41 mmol) at room temperature. Resulting reaction mixture was heated at 100° C. for 24 hours under nitrogen atmosphere. After complete consumption of starting material, reaction mixture was cooled to room temperature and quenched with ice cold water (150 mL). Aqueous layer was extracted with EtOAc (3×150 mL). Combined organic layer was washed with water (2×300 mL), dried over sodium sulphate; filtered and evaporated in vacuo to afford brown colored solid (4 g, 48%). 1H NMR (400 MHz, DMSO-d6) δ: 3.54-3.59 (m, 1H), 4.03 (t, 2H, J=6.8 Hz), 4.16 (t, 2H, J=8.36 Hz), 6.52 (d, 2H, J=8.36 Hz), 7.69 (d, 2H, J=8.6 Hz), 9.68 (s, 1H); LC-MS (M−H): =203.70

reactant | 4-fluoro benzaldehyde | 40.28 mmol, 5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | azetidine-3-carboxylic acid | 80.56 mmol, 8.14 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | triethyl amine | 201.41 mmol, 20.38 g | C(C)N(CC)CC | C6H15N
solvent | DMSO | 70 mL | CS(=O)C | C2H6OS
product | 1-(4-formyl-phenyl)-azetidine-3-carboxylic acid | 4 g, 48% | C(=O)C1=CC=C(C=C1)N1CC(C1)C(=O)O | C11H11NO3
